US07338959B2
N2-(5-tert-Butyl-isoxazol-3-yl)-1-methyl-N5-{2-[3-(morpholine-4-sulfonyl)-phenylamino]-pyrimidin-4-yl}-1H-benzoimidazole-2,5-diamine
The title compound was prepared following the procedure of Example I with N2-(5-tert-Butyl-isoxazol-3-yl)-N5-(2-chloro-pyrimidin-4-yl)-1-methyl-1H benzoimidazole-2,5-diamine (35 mg, 0.09 mmol) and 3-(Morpholine-4-sulfonyl)-phenylamine (23 mg, 0.10 mmol) to afford an off white solid (32 mg, 005. mmol). MS (ESI) m/z=605 [M+H]+.

reactant | N2-(5-tert-Butyl-isoxazol-3-yl)-N5-(2-chloro-pyrimidin-4-yl)-1-methyl-1H benzoimidazole-2,5-diamine | 0.09 mmol, 35 mg | C(C)(C)(C)C1=CC(=NO1)NC1=NC2=C(N1C)C=CC(=C2)NC2=NC(=NC=C2)Cl | C19H20ClN7O
reactant | 3-(Morpholine-4-sulfonyl)-phenylamine | 0.10 mmol, 23 mg | N1(CCOCC1)S(=O)(=O)C=1C=C(C=CC1)N | C10H14N2O3S
product | N2-(5-tert-Butyl-isoxazol-3-yl)-1-methyl-N5-{2-[3-(morpholine-4-sulfonyl)-phenylamino]-pyrimidin-4-yl}-1H-benzoimidazole-2,5-diamine | C(C)(C)(C)C1=CC(=NO1)NC1=NC2=C(N1C)C=CC(=C2)NC2=NC(=NC=C2)NC2=CC(=CC=C2)S(=O)(=O)N2CCOCC2 | C29H33N9O4S
